* C:\Users\david\Desktop\École\Université\Undergrad\Work\Labs\ADC4\Draft9.asc
V1 N002 0 3
R2 0 N003 9
V2 N001 N002 5
R3 N003 N001 7
.op
.backanno
.end
